data/mechanism_extracts/JACS/10.1021_jacs.3c10585.json
{"doi": "10.1021_jacs.3c10585", "journal": "JACS", "is_review": false, "rxn_class_summary": "Membrane-free electrochemical epoxidation of chloropropene (and other alkenes) to epichlorohydrin via bromide-mediated bromohydrin intermediate over NiCo2O4 nanotip anode", "mechanism_family": ["mediator_anodic", "radical_anodic", "paired_electrolysis", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anode oxidizes Br- to Br radical (one-electron) which adds to alkene; anode also generates *OH from water oxidation; cathode reduces water to H2 generating OH- that deprotonates/eliminates HBr from bromohydrin", "key_intermediates": [{"name": "bromine radical (Br•)", "smiles": "[Br]", "role": "reactive"}, {"name": "beta-bromo carbon radical from Br• addition to chloropropene (ClCH2-CHBr-CH2• dominant; also ClCH2-CH•-CH2Br)", "smiles": "ClCC([CH2])Br", "role": "transient"}, {"name": "surface hydroxyl radical (*OH) from water oxidation", "smiles": "[OH]", "role": "reactive"}, {"name": "bromohydrin (1-chloro-3-bromo-2-hydroxypropane and 1-chloro-2-bromo-3-hydroxypropane, ~2:1)", "smiles": "ClCC(O)CBr", "role": "reactive"}, {"name": "epichlorohydrin (product after HBr elimination)", "smiles": "ClCC1CO1", "role": "reactive"}], "electron_flow": "At the NiCo2O4 nanotip anode, Br- is oxidized by SET to Br•, which adds to the C=C of chloropropene to give a carbon radical; coupling with *OH (from anodic water oxidation) yields a bromohydrin. OH- generated at the cathode (from H2O reduction to H2) eliminates HBr from the bromohydrin to deliver the epoxide and regenerate Br-.", "rate_determining_step": "Anodic one-electron oxidation of Br- to Br• and its addition to the alkene (Br•/alkene radical addition step) over the nanotip anode", "probe_reagents": [{"name": "BHT (butylated hydroxytoluene)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "ECH yield in 0.1 M KBr dropped by >42%; yield in KCl essentially unchanged, supporting Br radical pathway"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "ECH yield in KBr fell by >50%; DPE-Br adduct detected by HR-MS (m/z 259.0112/261.0091)"}, {"name": "N,N-diallyl-4-methylbenzenesulfonamide", "smiles": "Cc1ccc(S(=O)(=O)N(CC=C)CC=C)cc1", "purpose": "radical_trap", "observation": "Br•-trapped cyclized adduct detected by HR-MS (m/z 332.0137/334.0116), confirming Br radical"}, {"name": "DMPO (5,5-dimethyl-1-pyrroline-N-oxide)", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "intermediate_trap", "observation": "EPR signals of DMPO-OH and DMPO-C adducts observed; HR-MS confirms DMPO-OH (m/z 130.0876) and DMPO-C with both [ClCH2C•(H)CH2Br] and [ClCH2CHBrCH2•] (m/z 270.1363/271.9733)"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Only 18O-labeled ECH detected by HR-MS, confirming water as sole oxygen source"}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "EPR", "DFT", "cyclic_voltammetry", "UV_vis", "H/D_labeling", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Alternative previously reported mechanism (Br/O redox synergistic, involving Br2/HBrO) is ruled out here: UV-vis shows no BrO- signal in KBr electrolyte, while ClO- is observed in KCl (consistent with Cl2/HOCl pathway). High-curvature NiCo2O4 nanotips enhance the local electric field to concentrate Br- and OH- at the anode; isolated Br adsorption sites suppress Br• coupling to Br2 (suppresses BER) and a high barrier for *OH further oxidation suppresses OER. NMR of bromohydrin intermediate shows ClCH2CHBrCH2OH : ClCH2CH(OH)CH2Br ≈ 2:1, indicating the ClCH2CHBrCH2• carbon radical is dominant."}
